US04062869
A stirred suspension of isobutyl 3-indolylglyoxylate (48.5 g.) and sodium borohydride (22.7 g.) in isopropanol (500 ml.) was slowly heated to reflux and held for 5 hours. The cooled mixture was diluted with water (2 l.) and extracted with dichloromethane. The extract was washed with water, dried over magnesium sulphate and concentrated under reduced pressure to an oil which crystallised on cooling. Recrystallisation from toluene (100 ml.) gave 3-(2-hydroxyethyl)indole as a cream-coloured crystalline powder, mp. 55°-56°. Yield 23.3 g. (72.3%).

reactant | isobutyl 3-indolylglyoxylate | 48.5 g | N1C=C(C2=CC=CC=C12)C(C(=O)OCC(C)C)=O | C14H15NO3
reactant | sodium borohydride | 22.7 g | [BH4-].[Na+]
solvent | isopropanol | 500 ml | C(C)(C)O | C3H8O
solvent | water | 2 l | O | H2O
product | 3-(2-hydroxyethyl)indole | OCCC1=CNC2=CC=CC=C12 | C10H11NO
